US06180835B2
To a dried flask (500 ml volume), the inside of which had been flushed with nitrogen, were charged 15.4 g (0.10 mol.) of 2-methyl-2-tetrahydrofuranoxy-3-butyne, 150 ml of tetrahydrofuran and 20 ml of hexamethylphosphoric triamide, and the resulting mixture was cooled to −70° C. Subsequently, 65 ml of n-butyllithium (1.55 mol./l n-hexane solution, 0.10 mol.) was added to the mixture and the resulting mixture was stirred at 70° C. for 30 minutes. After adding 15.8 g (0.10 mol.) of 1-bromo-3-chloropropane, the reaction solution was warmed to 0° C. over 2 hours and further stirred at 0° C. for 2 hours to complete the reaction. After the completion of the reaction, the reaction mixture was added to 500 ml of an aqueous saturated ammonium chloride solution, cooled by ice, and then subjected to extraction with two 200 ml portions of ethyl acetate. The extract was washed with an aqueous saturated sodium bicarbonate solution and a saturated saline solution, dried over anhydrous sodium sulfate and concentrated by distillation of the solvent through a rotary evaporator to give 22.8 g of a crude product. The crude product was purified by distillation under reduced pressure to give 2-methyl-2-tetrahydrofuranoxy-7-chloro-3-heptyne (19.2 g, purity 97.0%, yield 80.8%) having the following physical data:

reactant | 2-methyl-2-tetrahydrofuranoxy-3-butyne | 0.10 mol, 15.4 g | CC(C)(C#C)OC1OCCC1 | C9H14O2
reactant | n-butyllithium | 1.55 mol, 65 ml | C(CCC)[Li]
reactant | 1-bromo-3-chloropropane | 0.10 mol, 15.8 g | BrCCCCl | C3H6BrCl
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | hexamethylphosphoric triamide | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-methyl-2-tetrahydrofuranoxy-7-chloro-3-heptyne | 19.2 g, yield 80.8% | CC(C)(C#CCCCCl)OC1OCCC1 | C12H19ClO2
